US08357694B2
(S)—N-(3-(2-(butyl(methyl)amino)ethyl)phenyl)-6-(3,4-dichlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine hydrochloride
This was synthesized by using (S)-4-(6-(3,4-dichlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate, N-methylbutan-1-amine and triethylamine as described in general procedure 6 to afford the desired product as hydrochloride salt. M.p.=162-166° C. 1H NMR (DMSO) 400 MHz δ 10.24 (bs, 1H), 9.63 (s, 1H), 8.34-8.29 (m, 2H), 7.79 (bs, 1H), 7.68-7.65 (m, 1H), 7.56-7.45 (m, 3H), 7.43-7.41 (m, 1H), 7.27 (t, J=8.0 Hz, 1H), 7.11 (d, J=7.6 Hz, 1H), 7.04-7.00 (m, 1H), 6.87 (d, J=8 Hz, 1H), 4.46 (t, J=6.4 Hz, 1H), 3.34-3.10 (m, 5H), 3.06-2.96 (m, 3H), 2.79 (t, J=4.8 Hz, 3H) 1.68-1.59 (m, 2H), 1.32-1.24 (m, 2H), 0.87 (t, J=7.6 Hz, 3H). LCMS m/e 531 [M+H]. Calc. for C31H32Cl2N4.1.93 Hydrochloric acid.0.30 Water.0.17 Ethyl Acetate: C, 61.15; H, 5.81; N, 9.00. Found C, 61.15; H, 5.82; N, 9.00.

reactant | (S)-4-(6-(3,4-dichlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate | CS(=O)(=O)OCCC1=CC=C(C=C1)NC1=NC=2C3=C([C@@H](CC2C=N1)C1=CC(=C(C=C1)Cl)Cl)C=CC=C3 | C27H23Cl2N3O3S
reactant | N-methylbutan-1-amine | CNCCCC | C5H13N
reactant | triethylamine | C(C)N(CC)CC | C6H15N
product | (S)—N-(3-(2-(butyl(methyl)amino)ethyl)phenyl)-6-(3,4-dichlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine hydrochloride | Cl.C(CCC)N(CCC=1C=C(C=CC1)NC1=NC=2C3=C([C@@H](CC2C=N1)C1=CC(=C(C=C1)Cl)Cl)C=CC=C3)C | InChI=1S/C31H32Cl2N4.ClH/c1-3-4-15-37(2)16-14-21-8-7-9-24(17-21)35-31-34-20-23-18-27(22-12-13-28(32)29(33)19-22)25-10-5-6-11-26(25)30(23)36-31;/h5-13,17,19-20,27H,3-4,14-16,18H2,1-2H3,(H,34,35,36);1H/t27-;/m0./s1
